US05112998
To a mixture of 49.0 mg (0.1 mmole) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-hydroxypregn-5-en-3β-yl acetate, 0.24 m; (3 mmoles) of pyridine, 0.5 mg (0.004 mmole) of 4-(dimethylamino)pyridine and 10 ml of dry methylene chloride was added 0.12 ml (1.3 mmoles) of acetic anhydride dropwise at a temperature of 0° C. and the solution was stirred at room temperature for 10 hours. The reaction mixture was diluted with 20 ml of methylene chloride and washed with cold 1N-hydrochloric acid. The aqueous layer (washings) was extracted with methylene chloride and the extract was combined with the organic layer. The resulting mixture was washed successively with water, aqueous sodium hydrogen carbonate solution and aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=1:10, v/v) to recover 45 mg of 7α-acetoxy- 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregn-5-en-3β-yl acetate (yield: 85%).

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-hydroxypregn-5-en-3β-yl acetate | 0.1 mmole, 49.0 mg | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)O | C29H44O6
reactant | pyridine | 3 mmoles | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1.3 mmoles, 0.12 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
catalyst | 4-(dimethylamino)pyridine | 0.004 mmole, 0.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 7α-acetoxy- 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregn-5-en-3β-yl acetate | 45 mg, yield: 85% | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)OC(C)=O | C31H46O7
